US08912208B2
C. (4-{4-[2-(3-Fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid
To a solution of (4-{4-[2-(3-fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester (crude from above) in DMF (2.5 mL) is added LiOH (10% solution, 1 mL) and the reaction mixture is heated at 60° C. for 1.5 h. The mixture is then subjected to HPLC purification to give the title compound: 1H NMR (400 MHz, DMSO-d6) δ 1.09-1.15 (m, 1 H) 1.50 (td, J=12.44, 9.98 Hz, 1 H) 1.63 (d, J=5.31 Hz, 6 H) 2.37 (d, J=7.58 Hz, 2 H) 6.76 (td, J=8.21, 2.27 Hz, 1H) 7.28-7.39 (m, 4 H) 7.52 (dd, J=8.34, 1.26 Hz, 1 H) 7.65 (s, 1H) 7.63 (t, J=4.04 Hz, 2 H) 7.87 (d, J=12.38 Hz, 1 H) 8.84-8.86 (m, 2 H) 9.99 (s, 1 H); (M+H)+=406.2.

reactant | (4-{4-[2-(3-fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=NC1)NC1=CC(=CC=C1)F)=O | C25H26FN3O2
reactant | LiOH | 1 mL | [Li+].[OH-]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (4-{4-[2-(3-Fluorophenylamino)-pyrimidin-5-yl]-phenyl}-cyclohexyl)-acetic acid | FC=1C=C(C=CC1)NC1=NC=C(C=N1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O | C24H24FN3O2
